US05723475
Synthesis of N-methyl-N-(1-phenylvinyl)-2-bromoacetamide (25)
N-methyl-N-(1-phenylvinyl)amine and bromoacetyl bromide were used to produce the above compound in the same way as Reference Example 8.

reactant | N-methyl-N-(1-phenylvinyl)amine | CNC(=C)C1=CC=CC=C1 | C9H11N
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
product | N-methyl-N-(1-phenylvinyl)-2-bromoacetamide | CN(C(CBr)=O)C(=C)C1=CC=CC=C1 | C11H12BrNO
